US07459448B2
2-(3,4-Dimethoxy-phenylamino)-10-(3-pyrrolidin-1-yl-prop-1-ynyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-31)
In a manner similar to Method O, 2-(3,4-dimethoxy-phenylamino)-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-26) and 1-(prop-2-ynyl)pyrrolidine were converted to I-31 (29%): HRMS Calcd. for C27H27N5O3: 470.2192, Found 470.2185.

reactant | 2-(3,4-dimethoxy-phenylamino)-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)I)N1 | C20H17IN4O3
reactant | 1-(prop-2-ynyl)pyrrolidine | C(C#C)N1CCCC1 | C7H11N
product | 2-(3,4-Dimethoxy-phenylamino)-10-(3-pyrrolidin-1-yl-prop-1-ynyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)C#CCN3CCCC3)N1 | C27H27N5O3
